US04012513
A mixture of phenol (0.27g.) and anhydrous 1-(7-chloroquinazolin-4-yl)-5-methoxy-2-methylindol-3-ylacetic acid (1.0g.) in dry 1,2-dimethoxyethane (20ml.; dried over sodium aluminosilicate powder) was stirred at room temperature and treated with dicyclohexylcarbodiimide (0.75g.). The mixture became opaque, and was stirred overnight at room temperature and then filtered. Evaporation of the filtrate gave a dark yellow syrup, which was purified by chromatography on silica gel (175g.), using an increasing gradient of ether in petroleum ether (b.p. 40°-60° C.) (polarity increased by incremental addition of 10% v/v ether). The major product, phenyl 1-(7-chloroquinazolin-4-yl)-5-methoxy-2-methylindol-3-ylacetate, was obtained as a yellow glass (NMR: OCH3 at 6.20τ; pure by TLC: systems A and D), from the petrol rich fractions. A second product, 1-[1-(7-chloroquinazolin-4-yl)-5-methoxy-2-methylindol-3-ylacetyl]-1,3-dicyclohexylurea, was obtained as a pale yellow solid of m.p. 105°-107° C. NMR: OCH3 at 6.23τ; pure by TLC: system C).

reactant | phenol | 0.27g | C1(=CC=CC=C1)O | C6H6O
reactant | 1-(7-chloroquinazolin-4-yl)-5-methoxy-2-methylindol-3-ylacetic acid | 1.0g | ClC1=CC=C2C(=NC=NC2=C1)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)O)C | C20H16ClN3O3
reactant | dicyclohexylcarbodiimide | 0.75g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | 1,2-dimethoxyethane | 20ml | COCCOC | C4H10O2
product | phenyl 1-(7-chloroquinazolin-4-yl)-5-methoxy-2-methylindol-3-ylacetate | ClC1=CC=C2C(=NC=NC2=C1)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)OC1=CC=CC=C1)C | C26H20ClN3O3
